.title KiCad schematic
.model __Q1 VDMOS NCHAN
L1 /Vdd /Vd 1m
C1 /Vdd /Vd 1.0132u
R1 /Vdd /Vd 10
MQ1 /Vd /Vg GND __Q1
Vdd1 /Vdd GND DC 5 
Vg1 /Vg GND DC 1 
.end
