.title KiCad schematic
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/BB112.cir"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/BC546B.cir"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/TL082-dual.lib"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/ind-dual.cir"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/led-green.cir"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/p600g_spice.cir"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/regulators.lib"
.include "/Users/mimeiners/Documents/KiCad/FM-VCO/SpiceLibs/ths3491.lib"
.model __RV2 potentiometer( r=1k )
.model __RV1 potentiometer( r=20k )
.save all
.probe alli
C24 /MP6 Net-_T2-B_ 22n
C23 /MP6 /MP10 68p
R12 GND Net-_T1-B_ 10k
R9 -12V /VEE 10k
QT1 /MP6 Net-_T1-B_ /VEE QBC546B
C22 Net-_T1-B_ /MP10 22n
XIC3 /OPO1 /OPO1 /OPO2 -12V Net-_IC3B-+_ Net-_IC3B--_ /OPO2 +12V TL082-dual
R10 Net-_IC3B--_ /OPO2 10k
R16 Net-_IC3B-+_ GND 10k
R14 /MP10 /MP9 22k
R13 /MP9 /MP6 22k
R17 /MP6 /MP10 1MEG
D3 /MP9 /MP6 BB112
D4 /MP9 /MP10 BB112
R11 /OPO1 /MP9 4.7k
XL12 /MP6 /MP5 /MP10 2inds
R7 Net-_R7-Pad1_ /MP5 3.3k
ARV2 +12V +12V Net-_R7-Pad1_ __RV2
VCO1 Net-_J6-Pin_1_ GND DC 0 
VAC1 /AC_IN GND DC 0 
R19 Net-_IC3B-+_ Net-_J6-Pin_1_ 10k
R8 Net-_C14-Pad2_ Net-_IC3B--_ 10k
C14 /AC_IN Net-_C14-Pad2_ 1u
ARV1 /MP12 /IN GND __RV1
C18 /MP10 /MP12 1u
VDD1 +12V GND DC 12 AC 1  
VSS1 GND -12V DC 12 
QT2 /MP10 Net-_T2-B_ /VEE QBC546B
R15 GND Net-_T2-B_ 10k
R2 Net-_LED2-A_ GND 470
C8 +12V GND 100u
C9 -12V GND 100u
R1 Net-_LED1-A_ +12V 470
C3 GND +12V 100n
C4 GND -12V 100n
XIC1 /FM-Spannungsversorgung/+18V GND +12V LM7812
C5 GND /FM-Spannungsversorgung/-18V 330n
XIC2 /FM-Spannungsversorgung/-18V GND -12V LM7912
XD1 GND /FM-Spannungsversorgung/+18V P600G
C1 /FM-Spannungsversorgung/+18V GND 10u
C6 GND /FM-Spannungsversorgung/-18V 10u
C2 /FM-Spannungsversorgung/+18V GND 330n
XD2 /FM-Spannungsversorgung/-18V GND P600G
C26 GND +12V 100n
DLED1 Net-_LED1-A_ GND LED_GREEN
C27 GND -12V 100n
DLED2 Net-_LED2-A_ -12V LED_GREEN
C21 GND +12V 47n
C17 GND +12V 1n
C16 +12V GND 10u
XIC5 /IN Net-_IC5--_ Net-_IC5-Pad6_ -12V +12V -12V GND THS3491RGT
R18 Net-_IC5-Pad6_ /OUT-2 50R0
C12 +12V GND 47n
R6 Net-_IC4-Pad6_ /OUT-1 50R0
C10 +12V GND 1n
C7 +12V GND 10u
R25 Net-_IC4--_ Net-_IC4-Pad6_ 1.2k
C19 GND -12V 47n
C25 GND -12V 10u
R27 Net-_IC5-Pad6_ Net-_IC5--_ 1.2k
R26 GND Net-_IC5--_ 1.2k
C20 GND -12V 1n
C13 GND -12V 1n
C11 GND -12V 47n
C15 GND -12V 10u
R24 GND Net-_IC4--_ 1.2k
XIC4 /IN Net-_IC4--_ Net-_IC4-Pad6_ -12V +12V -12V GND THS3491RGT
.end
