* FM-VCO

*----------------------------------------------------------------------------
*	LIBRARIES 
*----------------------------------------------------------------------------
.include "./SpiceLibs/BB112.cir"
.include "./SpiceLibs/BC546B.cir"
.include "./SpiceLibs/regulators.lib"
.include "./SpiceLibs/TL082-dual.lib"
.include "./SpiceLibs/ind-dual.cir"
.include "./SpiceLibs/led-green.cir"
.include "./SpiceLibs/p600g_spice.cir"
.include "./SpiceLibs/ths3491.lib"

.model __RV2 potentiometer( r=1k )
.model __RV1 potentiometer( r=20k )

*----------------------------------------------------------------------------
*	ANALYSIS 
*----------------------------------------------------------------------------

.param VCC=12
.param cntl=0
.param simtime=300u

.option noacct
.option noinit

.tran 1n simtime 0

* start and end values for cntl
.csparam start = -4
.csparam end = 9
.csparam delta = 0.5

* control script
.control
* create a new plot for storing the measurements
* set xtrtol=2
* set curplot = new  ; create a new plot
* set curplottitle = "Frequency vs. Voltage"
* set freq_volt = $curplot ; store its name to 'freq_volt'
* setplot $freq_volt

* if (end < start)                ; find appropriate sign for delta
*   let delta = -abs(delta)
* else
*   let delta = abs(delta)
* end

* let ldelta = delta              ; loop delta, original delta will be restored to csparam by 'reset'
* let no_runs = floor((end - start)/delta) + 1  ; number of runs for simulation
* let run = 0                     ; number of actual run

* let vcovec=unitvec(no_runs)   ; vector for all vco cntl voltages
* let foscvec=unitvec(no_runs)  ; vector for all freq values

* let cntlcur = start           ; set the start value for cntl
* * the loop
*   dowhile run < no_runs
*     alterparam cntl = $&cntlcur       ; instance parameter control voltage for VCO is changed to cntlcur
*     reset                             ; make .param change effective
*     tran 1n 'simtime' 0               ; simulate tran, plot tran1 is created
*     setplot $freq_plot                ; go to the output plot
*     let vcovec[run] = tran1.v(/MP9)   ; store the current cntl voltage value
*     let outvec[run] = tran1.v(/MP12)
*     linearize v(/MP12)
*     fft v(/MP12)
*     let spoutvec[run] = v(/MP12)
*     * start meas at freq > 0 to skip large dc part
*     meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
*     let foscvec[run] = fosc
*     destroy sp1
*     destroy tran1
*     let cntlcur = cntlcur + ldelta
*     let run = run + 1
*   end

*   settype frequency foscvec
*   settype voltage vcovec
*   plot foscvec vs vcovec
*   print vcovec foscvec
*   rusage
.endc

* .control
* set xtrtol=2
* set dt = $curplot
* set curplot = new
* set curplottitle = "Frequency versus voltage"
* set freq_volt = $curplot $ store its name to 'freq_volt'
* setplot $freq_volt
* let vcovec=vector(7)
* let foscvec=vector(7)
* setplot $dt
* alter vco -4
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[0]=v(/MP9)
* linearize /MP12
* fft v(/MP12) 
* * start meas at freq > 0 to skip large dc part
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[0]=fosc
* * plot v(/MP12) xlimit 140u 160u
* reset
* alter vco -2
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[1]=v(/MP9)
* linearize /MP12
* fft v(/MP12)
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[1]=fosc
* * plot v(/MP12) xlimit 140u 160u
* reset
* alter vco 0
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[2]=v(/MP9)
* linearize v(/MP12)
* fft v(/MP12)
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[2]=fosc
* * plot v(/MP12) xlimit 140u 160u
* reset
* alter vco 2
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[3]=v(/MP9)
* linearize v(/MP12)
* fft v(/MP12)
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[3]=fosc
* * plot v(/MP12) xlimit 140u 160u
* reset
* alter vco 4
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[4]=v(/MP9)
* linearize v(/MP12)
* fft v(/MP12)
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[4]=fosc
* * plot v(/MP12) xlimit 140u 160u
* reset
* alter vco 6
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[5]=v(/MP9)
* linearize v(/MP12)
* fft v(/MP12)
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[5]=fosc
* * plot v(/MP12) xlimit 140u 160u
* reset
* alter vco 8
* tran 1n $&simtime 0
* let {$freq_volt}.vcovec[6]=v(/MP9)
* linearize v(/MP12)
* fft v(/MP12)
* meas sp fosc MAX_AT v(/MP12) from=1e3 to=1e9
* let {$freq_volt}.foscvec[6]=fosc
* * plot v(/MP12) xlimit 140u 160u
* plot tran1.v(/MP12) tran3.v(/MP12) tran5.v(/MP12) tran7.v(/MP12)
* + tran9.v(/MP12) tran11.v(/MP12) tran13.v(/MP12) xlimit 140u 160u
* plot mag(sp2.v(/MP12)) mag(sp4.v(/MP12)) mag(sp6.v(/MP12)) mag(sp8.v(/MP12))
* + mag(sp10.v(/MP12)) mag(sp12.v(/MP12)) mag(sp14.v(/MP12)) xlimit 1e6 5e6
* setplot $freq_volt
* .endc

*----------------------------------------------------------------------------
*	MAIN CIRCUIT 
*----------------------------------------------------------------------------
* SIM SUPPLY
* VDD18 VDD GND DC 'VCC'
* VSS18 GND VSS DC 'VCC'
* 
VDD12 +12V GND DC 'VCC'
VSS12 GND -12V DC 'VCC'
* VCO  /MP9 0   DC 0
VCO Net-_J6-Pin_1_ GND DC 'CNTL'
VAC /AC_IN GND DC 0

* REAL SUPPLY
XD1 GND VDD P600G
XD2 VSS GND P600G
C1 VDD GND 10u
C6 GND VSS 10u
C2 VDD GND 330n
C5 GND VSS 330n
XIC1 VDD GND +12V LM7812
XIC2 VSS GND -12V LM7912
C3 GND +12V 100n
C4 GND -12V 100n
C8 +12V GND 100u
C9 -12V GND 100u
R1 +12V Net-_LED1-A_ 470
DLED1 Net-_LED1-A_ GND LED_GREEN
R2 GND Net-_LED2-A_ 470
DLED2 Net-_LED2-A_ -12V LED_GREEN
C26 GND +12V 100n
C27 GND -12V 100n


* VCO CONTROL
C14 /AC_IN Net-_C14-Pad2_ 1u
R8 Net-_C14-Pad2_ Net-_IC3B--_ 10k
R10 Net-_IC3B--_ /OPO2 10k
R19 Net-_IC3B-+_ Net-_J6-Pin_1_ 10k
R16 Net-_IC3B-+_ GND 10k
XIC3 /OPO1 /OPO1 /OPO2 -12V Net-_IC3B-+_ Net-_IC3B--_ /OPO2 +12V TL082-dual
R11 /OPO1 /MP9 4.7k


* VCO
ARV2 +12V +12V Net-_R7-Pad1_ __RV2
R7 Net-_R7-Pad1_ /MP5 3.3k
XL12 /MP6 /MP5 /MP10 2inds
D3 /MP9 /MP6 BB112
D4 /MP9 /MP10 BB112
R13 /MP9 /MP6 22k
R14 /MP10 /MP9 22k
R17 /MP6 /MP10 1MEG
C23 /MP6 /MP10 68p
C22 Net-_T1-B_ /MP10 22n
C24 /MP6 Net-_T2-B_ 22n
QT1 /MP6 Net-_T1-B_ /VEE QBC546B
QT2 /MP10 Net-_T2-B_ /VEE QBC546B
R12 GND Net-_T1-B_ 10k
R9 -12V /VEE 10k
R15 GND Net-_T2-B_ 10k
C18 /MP10 /MP12 1u
ARV1 /MP12 /IN GND __RV1


* TREIBER
* XIC5 /IN Net-_IC5--_ Net-_IC5-Pad6_ -12V +12V -12V GND THS3491RGT
* R24 GND Net-_IC4--_ 1.2k
* R25 Net-_IC4--_ Net-_IC4-Pad6_ 1.2k
* R6 Net-_IC4-Pad6_ /OUT-1 50
* C12 +12V GND 47n
* C10 +12V GND 1n
* C7 +12V GND 10u
* C13 GND -12V 1n
* C11 GND -12V 47n
* C15 GND -12V 10u

* XIC4 /IN Net-_IC4--_ Net-_IC4-Pad6_ -12V +12V -12V GND THS3491RGT
* R26 GND Net-_IC5--_ 1.2k
* R27 Net-_IC5-Pad6_ Net-_IC5--_ 1.2k
* R18 Net-_IC5-Pad6_ /OUT-2 50
* C21 GND +12V 47n
* C17 GND +12V 1n
* C16 +12V GND 10u
* C19 GND -12V 47n
* C25 GND -12V 10u
* C20 GND -12V 1n

* CL1 /OUT-1 GND 1u
* CL2 /OUT-2 GND 1u

.end
